US05191079
N-Benzyl-2-hydroxymethylmorpholine prepared in the same manner as described in Synthetic Communication, Vol. 10 (1), pages 59-73, 1980 (1.3 g) is subjected to hydrogenolysis in hydrogen chloride-containing ethanol in the same manner as described in Reference Example 15 to give 2-hydroxymethylmorpholine hydrochloride (1.3 g).

reactant | N-Benzyl-2-hydroxymethylmorpholine | C(C1=CC=CC=C1)N1CC(OCC1)CO | C12H17NO2
reactant | ethanol | C(C)O | C2H6O
reactant | hydrogen chloride | Cl | ClH
product | 2-hydroxymethylmorpholine hydrochloride | 1.3 g | Cl.OCC1CNCCO1 | InChI=1S/C5H11NO2.ClH/c7-4-5-3-6-1-2-8-5;/h5-7H,1-4H2;1H
